US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-3,2′-difluorobiphenyl-2-carbonitrile as described in Example 1 to give 3,2′-difluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as an off-white solid: δH (360 MHz, CDCl3) 7.31 (2H, dd, J 7 and 3), 7.43-7.49 (2H, m), 7.64-7.75 (3H, m), 8.10 (1H, s), 9.04 (1H, d, J 7); m/z (ES+) 401 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-3,2′-difluorobiphenyl-2-carbonitrile | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=C(C=CC1)F)C#N)F)C | C18H16BF2NO2
product | 3,2′-difluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC1=C(C(=CC=C1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)F)C#N | C20H9F5N4
